US07057046B2
(R)-3-t-butyloxycarbonylamino-1-carbomethoxymethyl-3,4-dihydrocarbostyril (20 mg) was dissolved in 4 M hydrogen chloride in 1,4-dioxane solution (5 mL) at room temperature. After 1 h the solvent was evaporated under vacuum, and the residue was twice taken up in toluene (10 mL) and evaporated under vacuum to provide (R)-3-amino-1-carbomethoxymethyl-3,4-dihydrocarbostyril hydrochloride, a white solid (21 mg).

reactant | (R)-3-t-butyloxycarbonylamino-1-carbomethoxymethyl-3,4-dihydrocarbostyril | 20 mg | C(C)(C)(C)OC(=O)N[C@H]1C(N(C2=CC=CC=C2C1)CC(=O)OC)=O | C17H22N2O5
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-3-amino-1-carbomethoxymethyl-3,4-dihydrocarbostyril hydrochloride | Cl.N[C@H]1C(N(C2=CC=CC=C2C1)CC(=O)OC)=O | InChI=1S/C12H14N2O3.ClH/c1-17-11(15)7-14-10-5-3-2-4-8(10)6-9(13)12(14)16;/h2-5,9H,6-7,13H2,1H3;1H/t9-;/m1./s1
